US07893056B2
Commercially available N-methyl-1-(4-pyridinyl)methanamine (0.305 g, 2.5 mmol) was dissolved in THF (5 mL). To this solution was added triethylamine (0.38 mL, 2.73 mmol), followed by 2,4,6-trichloro-5-fluoropyrimidine (0.5 g, 2.5 mmol), which was dissolved in THF (5 mL). The reaction was left to stir for 2.5 hours. The reaction mixture was diluted with water, then extracted with ether. The organics were dried (MgSO4) and concentrated. The resulting material was purified via filtration over silica gel with a solvent mixture of 5% MeOH in 95% DCM as the mobile phase to provide 2,6-dichloro-5-fluoro-N-methyl-N-(4-pyridinylmethyl)-4-pyrimidinamine as a brown oily solid (0.3516 g, 49%). LCMS: (M+H)+=287.0.

reactant | N-methyl-1-(4-pyridinyl)methanamine | 2.5 mmol, 0.305 g | CNCC1=CC=NC=C1 | C7H10N2
reactant | triethylamine | 2.73 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichloro-5-fluoropyrimidine | 2.5 mmol, 0.5 g | ClC1=NC(=C(C(=N1)Cl)F)Cl | C4Cl3FN2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,6-dichloro-5-fluoro-N-methyl-N-(4-pyridinylmethyl)-4-pyrimidinamine | 0.3516 g, 49% | ClC1=NC(=C(C(=N1)N(CC1=CC=NC=C1)C)F)Cl | C11H9Cl2FN4
